US07776910B2
3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (290 mg, 0.607 mmol) was dissolved in 3 ml of MeOH. LiOH hydrate (76 mg, 1.821 mmol) was dissolved in 1 ml of water and added to the reaction mixture and allowed to stir for 4 hours. The MeOH was removed under reduced pressure. The aqueous residue was washed with Et2O and then acidified with 3N HCl to give a white precipitate which was filtered and dried to give 270 mgs (99%) of 3-[2-Carboxy-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester as a white powder.

reactant | 3-[2-Ethoxycarbonyl-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.607 mmol, 290 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C(=O)OCC | C24H28FNO6S
reactant | LiOH hydrate | 1.821 mmol, 76 mg | O[Li].O
solvent | MeOH | 3 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 3-[2-Carboxy-4-(3-fluoro-benzenesulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 270 mgs, 99% | C(C)(C)(C)OC(=O)N1CC(CC1)C1=C(C=C(C=C1)S(=O)(=O)C1=CC(=CC=C1)F)C(=O)O | C22H24FNO6S
